US07285558B2
(b) 3-{[5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-3-pyridin-4-yl-2,4,5,6-tetrahydro-7H-pyrazolo[3,4-d]pyrimidin-7-yl]methyl}benzoic acid
This compound was synthesized by the hydrolysis of methyl 3-{[5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-3-pyridin-4-yl-2,4,5,6-tetrahydro-7H-pyrazolo[3,4-d]pyrimidin-7-yl]methyl}benzoate with 0.5N LiOH at room temperature for eight hours. Mass: 517.79 (M+H).

reactant | methyl 3-{[5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-3-pyridin-4-yl-2,4,5,6-tetrahydro-7H-pyrazolo[3,4-d]pyrimidin-7-yl]methyl}benzoate | CN1C(N(C=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)C2=CC=NC=C2)CC=2C=C(C(=O)OC)C=CC2)=O | C31H25N5O4
reactant | LiOH | 0.5N | [Li+].[OH-]
product | 3-{[5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-3-pyridin-4-yl-2,4,5,6-tetrahydro-7H-pyrazolo[3,4-d]pyrimidin-7-yl]methyl}benzoic acid | CN1C(N(C=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)C2=CC=NC=C2)CC=2C=C(C(=O)O)C=CC2)=O | C30H23N5O4
